US04792550
Synthesis of 2-hydroxycyclopentylacetic acid
In an atmosphere of argon, to a solution of LDA (lithium diisopropylamide) prepared with a solution of diisopropylamine (60 ml) in anhydrous tetrahydrofuran (500 ml) and a 1.45M solution of butyl lithium in n-hexane (297 ml), a solution of cyclopentylacetic acid (25 g) in anhydrous toluene (100 ml) was dropped. The solution was stirred for 30 min. at room temperature and for 1 hr at 45° C. With blowing of air dried through phosphorus pentaoxide, the solution was stirred for 16 hrs. After reaction, the supernatant separated by decantation was diluted with water. The diluted solution was washed with diethyl ether, adjusted pH 2 with 6N hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then concentrated under reduced pressure. The residue was purified by recrystallization to give the title compound (17.1 g) having the following physical data:

reactant | LDA | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 60 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | cyclopentylacetic acid | 25 g | C1(CCCC1)CC(=O)O | C7H12O2
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 297 ml | CCCCCC | C6H14
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxycyclopentylacetic acid | 17.1 g | OC1C(CCC1)CC(=O)O | C7H12O3
